US05081255
A mixture of 20.5 g (0.057 mole) of N,N'-bis(3,5-dimethoxybenzoyl)hydrazine in 125 ml of phosphorus oxychloride was heated to reflux temperature. All material dissolved after a short time and the solution was held at reflux for 1 hr. before it was cooled and slowly poured into water. The damp precipitate was stirred with 250 ml of boiling methanol before the mixture was cooled and filtered to give 16.3 g (84%) of crude 2,5-bis(3,5-dimethoxyphenyl)-1,3,4-oxadiazole, mp 167°-170° C.; Crystallization of a small sample from methanol gave mp 173°-175° C. 1H NMR(acetone-d6): 3.98 (s, 12H), 6.83 (m, 2H), 7.43 (m, 4H). Anal. Calcd. for C18H18N2O5 : C, 63.15; H, 5.30; N, 8.18. Found: C, 62.73; H, 5.34; N, 7.98.

reactant | N,N'-bis(3,5-dimethoxybenzoyl)hydrazine | 0.057 mole, 20.5 g | COC=1C=C(C(=O)NNC(C2=CC(=CC(=C2)OC)OC)=O)C=C(C1)OC | C18H20N2O6
reactant | water | O | H2O
reactant | methanol | 250 ml | CO | CH4O
solvent | phosphorus oxychloride | 125 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,5-bis(3,5-dimethoxyphenyl)-1,3,4-oxadiazole | 16.3 g, 84% | COC=1C=C(C=C(C1)OC)C=1OC(=NN1)C1=CC(=CC(=C1)OC)OC | C18H18N2O5
